US06858591B2
To a solution of [1-(3,3-diethoxy-propylcarbamoyl)-2-hydroxy-3-methyl-butyl]-carbamic acid benzyl ester (350 mg, 0.854 mmol) in anhydrous tetrahydrofuran (2 ml) was added 0.5N hydrochloric acid (2 ml). The resulting solution was stirred for 20 minutes at room temperature. The aqueous layer was basified to pH 8 with sodium bicarbonate solution, and extracted with ethyl acetate (3×40 mL). The combined extracts were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated in vacuo to provide [2-hydroxy-3-methyl-1-(3-oxo-propylcarbamoyl)-butyl]-carbamic acid benzyl ester (266 mg, 93%) as a white solid.

reactant | [1-(3,3-diethoxy-propylcarbamoyl)-2-hydroxy-3-methyl-butyl]-carbamic acid benzyl ester | 0.854 mmol, 350 mg | C(C1=CC=CC=C1)OC(NC(C(C(C)C)O)C(NCCC(OCC)OCC)=O)=O | C21H34N2O6
reactant | hydrochloric acid | 0.5N, 2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | [2-hydroxy-3-methyl-1-(3-oxo-propylcarbamoyl)-butyl]-carbamic acid benzyl ester | 266 mg, 93% | C(C1=CC=CC=C1)OC(NC(C(C(C)C)O)C(NCCC=O)=O)=O | C17H24N2O5
